US07534791B2
Synthesis of methyl 2-[[2-(methoxycarbonyl)phenyl]dithio]benzoate (Method 18.)
6 mL Sulphuric acid is added to ‘2,2’-dithiodibenzoic acid (20 g, 65.3 mmol) in 150 mL methanol. The reaction mixture is refluxed 3 days. The reaction mixture is cooled to room temperature and saturated aqueous NaHCO3 is added. Methanol is removed in vacuo. The resulting heterogeneous mixture is extracted with ethyl acetate. The organic phase is washed with brine, dried with MgSO4 and concentrated in vacuo to give 17.8 g (82%) of the title compound as a solid, which is used without further purification.

reactant | Sulphuric acid | 6 mL | S(O)(O)(=O)=O | H2O4S
reactant | 2,2’-dithiodibenzoic acid | 65.3 mmol, 20 g | C(C1=C(C=CC=C1)SSC1=C(C(=O)O)C=CC=C1)(=O)O | C14H10O4S2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | methanol | 150 mL | CO | CH4O
product | methyl 2-[[2-(methoxycarbonyl)phenyl]dithio]benzoate | 17.8 g, 82% | COC(=O)C1=C(C=CC=C1)SSC1=C(C(=O)OC)C=CC=C1 | C16H14O4S2
